US03974212
Step E: 2-Methyl-2-phenyl-5-methoxy-6,7-dichloro-1-indanone
Potassium tert-butoxide (8.42 g., 0.075 mole) dissolved in tert-butanol (300 ml.) is added to a refluxing solution of 2-methyl-5-methoxy-6,7-dichloro-1-indanone (12.26 g., 0.05 mole), refluxing is continued for 2 hrs., then a suspension of diphenyliodonium chloride (19.0 g., 0.06 mole) in tert-butanol (1 l.) is added and refluxing is continued for 2 hrs. The reaction mixture is cooled to 25°C., 300 ml. water added, and the mixture concentrated to dryness in vacuo to give 4.97 g. of 2-methyl-2-phenyl-5-methoxy-6,7-dichloro-1-indanone which melts at 161°-163°C. after crystallization from benzene:cyclohexane, 1:2.

reactant | Potassium tert-butoxide | 0.075 mole, 8.42 g | CC(C)([O-])C.[K+]
reactant | 2-methyl-5-methoxy-6,7-dichloro-1-indanone | 0.05 mole, 12.26 g | CC1C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O | C11H10Cl2O2
reactant | diphenyliodonium chloride | 0.06 mole, 19.0 g | [Cl-].C1(=CC=CC=C1)[I+]C1=CC=CC=C1
reactant | water | O | H2O
solvent | tert-butanol | 300 ml | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 1 l | C(C)(C)(C)O | C4H10O
product | 2-Methyl-2-phenyl-5-methoxy-6,7-dichloro-1-indanone | CC1(C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O)C1=CC=CC=C1 | C17H14Cl2O2
